Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Meperidine / Codeine / Lasix / Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Hypotension, AMS, Inc WBC from ___ 
 
Major Surgical or Invasive Procedure:
Central venous line insertion
Ventilation
 
History of Present Illness:
___ yo F with obesity hypoventilation syndrome, OSA, restrictive 
lung disease s/p Trach, hypotensive ___ at rehab facility, AMS, 
hypoxic 87%, ___ 157, received bolus 250cc, transferred to ___ 
for further evaluation.  
Of note, pt with long complicated hosp course at Kindred Hosp, 
discharged to rehab on ___.  
.  
ED COURSE: Initial VS T 103.0 HR 93 BP 90/40 RR 24 94%TC, 
received 1LNS, Vancomycin 1gm x1, Ceftriaxone 1gm x1, 
levofloxacin 750mg IV x1. Head CT negative, admit to MICU for 
hypotension, AMS.  

 
Past Medical History:
- Stage IV sacrum ulcer 6x5x3cm w/wound vac  
- Restrictive lung disease, hypercarbic resp failure, O2 
Dependent  
- s/p Trach ___  
- Morbid obesity  
- CHF  
- Ischemic CM  
- CAD, angina-type chest pain  
- PAF anticoagulated, s/p ___  
- ESRD on HD, tunnelled HD R chest, HD T, TH, SAT  
- DM II, diabetic nephropathy/retinopathy/neuropathy  
- Hypercholesterolemia  
- Hypertension  
- Migraines  
- Osteoarthritis  
- Peripheral vascular disease, ___ venous stasis ulcers  
- POCS  
- Anemia of CKD 12,000 per HD  
- Hypothyroidism  
- Status post total abdominal hysterectomy for endometriosis.  
- Status post multiple hernia surgeries  
- Recurrent Klebsiella UTI, E Coli UTIs  
- Strep B bacteremia ___  
- pannus cellulitis  

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 98.2 BP 73/46 HR 94 RR 17 100% AC 500X16 FiO2 0.4 PEEP 5  
GEN: opens eyes, follows commands  
HEENT: Trach in place, NGT in place  
RESP: diminished BS b/l  
CV: Irreg Nml S1, S2, no murmurs appreciated  
ABD: soft, morbidly obese, pannus, +BS  
EXT: UE edema/increased adipose tissue with emaciated 
___  
COCCYX: Large gaping wound, foul smelling deep penetrates to 
bone, ~6x6cm  
NEURO: intermittently follows commands  

 
Pertinent Results:
                        ___ RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 12:30AM    18.4* 2.72* 7.9* 25.2* 93 29.2 31.4 20.0* 
471* 
___ 05:55AM    20.2* 2.65* 7.8* 24.9* 94 29.4 31.3 19.0* 
491* 
___ 05:45PM    20.2* 2.68* 7.8* 24.5* 92 29.0 31.7 19.3* 
497* 
___ 11:15AM    19.5* 2.44* 7.2* 22.7* 93 29.4 31.6 19.1* 
510* 
___ 02:37AM    21.5* 2.13* 6.2* 20.0* 94 29.3 31.2 19.5* 
579* 
___ 03:13AM    26.0* 2.42* 7.1* 23.2* 96 29.1 30.5* 
19.5* 625* 
___ 10:26AM    27.3* 2.50* 7.3* 23.8* 95 29.1 30.5* 
19.9* 654* 
___ 04:11AM    25.0* 2.64* 7.6* 25.3* 96 28.6 30.0* 
18.2* 605* 
___ 09:16PM    17.4* 2.42* 6.9* 23.5* 97 28.6 29.4* 
18.2* 423 
.
                     Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 04:37AM    92  86* 2.0* 143 4.3 110* 21* 16 
___ 11:39AM    157 67* 5.0* 130* 4.6 97 19* 19 
.
                        CRP 
___ 10:26AM    202.9 
.
                       ESR 
___ 04:11AM    146 

.                      Lactate
___ 10:01PM      3.6 
.
                      calTIBC  Ferritn TRF 
___ 09:16PM    104*     1011* 80* 
.
                       TSH 
___ 09:16PM    1.1 
.
COAGS:
                         ___ PTT  ___ 
___ 12:30AM    14.4* 26.4     1.2 
___ 04:11AM    61.5* 63.2*     7.3 

.
Studies:
Head CT ___:
1. No acute intracranial hemorrhage or major vascular 
territorial infarction. Please note that if ischemia is of 
significant clinical concern evaluation with MR with 
diffusion-weighted imaging is suggested as this is a more 
sensitive means of evaluation. 
2. Aerosolized secretions and mucosal thickening of the sphenoid 
sinus could indicate acute sinusitis in the appropriate context. 
Opacification of a few right-sided mastoid air cells. 
.
CXR ___:
1. Lines and tubes appear well positioned as described above. 
2. Left lower lobe and mid lung opacities likely representing 
effusion and 
atelectasis; however, underlying infectious process cannot be 
entirely 
excluded. 
.
CXR ___:
IMPRESSION:
Persistent complete opacification of the left hemithorax 
consistent with a combination of left lung collapse and known 
left pleural effusion. 
.
MICRO:
___ 10:52 pm CATHETER TIP-IV      Source: PICC line. 

                            **FINAL REPORT ___

   WOUND CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >15 colonies. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------     1 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
VANCOMYCIN------------     2 S
.
___ 11:07 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         WARNING! This isolate is an extended-spectrum 
beta-lactamase
         (___) producer and should be considered resistant to 
all
         penicillins, cephalosporins, and aztreonam. Consider 
Infectious
         Disease consultation for serious infections caused by
         ___-producing species. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CEFUROXIME------------    32 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 
.
___ 9:16 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
248-___
         ___. 
      CLOSTRIDIUM SPECIES NOT C. PERFRINGENS OR C. SEPTICUM. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      GRAM POSITIVE ROD(S). 
      REPORTED BY PHONE TO ___ CC7D 12:25PM ___. 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 
 
Brief Hospital Course:
AP: ___ yo F with obesity hypoventilation syndrome, restrictive 
lung disease, s/p trach, vent dependent now with L sided 
opacity, AMS, hypotension.
.
#. Hypotension: Septic shock, increaseing WBC, fever, elevated 
lactate, AMS, source c/w PNA, large 9cmx6cmx5cm foul smelling 
sacral decub stage IV c/w osteo, in addition to GNR bacteremia. 
Pt's PICC line was also removed, micro data c/w coag neg staph, 
oxacillin resistant bacteremia in addition to GNR bacteremia. Pt 
was broadly covered with ___. Pt was initially placed on 
pressors-neo, which were never weaned, IVF hydration and broad 
spectrum Abx. Plastics was consulted to debride osteo given 
excessive smell, large necrotic decub ulcer. Given pt's 
persistent pressor requirement and poor prognosis, family mtg 
was held to address goals of care. Family requested to view 
large sacral decub ulcer. Family subsequently decided on no 
further aggressive measures, no further debridement. On ___ pt 
made CMO, morphine gtt was started. Pt remained comfortable. SW 
involved to provide family support. Pressors and vent were 
withdrawn ___ at midnight. Pt expired ___.
.
#. Respiratory Failure: Multifactorial in setting of PNA, 
effusion vs. underlying restrictive lung disease, OSA, obesity 
hypoventilation syndrome, sputum c/w PNA. Covered with broad 
spectrum ___, vanc. Pt's vent was withdrawn ___ am due to 
CMO status as noted above.
.
#. AMS: Most likely in setting of PNA, large sacral decub stage 
IV, c/w osteo, her sedating meds were held. Her sepsis was 
treated as above until family decided to make pt CMO and 
withdraw care. 
.
#. Sacral decub stage IV: ESR, CRP elevated c/w osteo, foul 
smelling, wound care nurse came to evaluate-very concerned given 
necrosis, foul smell 9x6x5 in dimension, much enlarged compared 
to prior admit at ___ last month. CMO as above.
.
#. ESRD on HD: Renal involved was unable to undergo HD due to 
hypotension, septic shock. Started CVVH. stopped CVVH due to 
CMO.
.
#. PAF: Anticoagulated, supratherapeutic upon presentation. held 
coumadin on presentation. Started hep gtt on ___, however 
stopped within a couple of hours due to clots coming out of 
Trach/ETT. Was unable to give BB due to hypotension/septic shock 
as above.
.
#. CODE: DNR/DNI-CMO, supportive care, SW involved. Morphine 
gtt, titrated to comfort. Pt expired ___ 10:18pm.
.
#. COMMUNICATION: ___ ___ W, 
___ H; Nephew ___ very involved in care.

 
Medications on Admission:
MEDS from Rehab ___:  
-NPH 10U AM, 26U ___  
-Vitamin D 50,000U qweek  
-Epogen 12,000 ___ at HD  
-FENTANYL PATCH 25MCG q 72hr  
-Zemplar 1mcg on HD days  
- Miralax 17gm daily  
- peridex rinse BID  
-zinc sulfate 220mg daily  
-zocor 40mg daily  
-celexa 30mg BID  
-Senakot  
-Norvasc 10mg daily  
-Nephrocaps 1 tablet daily  
-Aspirin 325mg daily  
-Isordil 40mg BID  
-Syntrhoid 75mcg daily  
- ritalin 10mg daily am, 5mg pm  
-Lopressor 25mg Q6HR  
-Coumadin 1.5mg HS  
-RENAGEL 1,600 Q6HR  
-Seroquel 25mg HS  
-ZENADERM TOP  
-Tyelenol ___ Q6HR prn  
-seroquel 25mg Q12hr  
-nepro 45ml 6pm-7am  

 
Discharge Medications:
NA
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
NA
 
Followup Instructions:
___